US06747023B1
At room temperature, 2-methoxycarbonylpyrazine (1.00 g) was dissolved in methanol. The resulting solution was subjected to catalytic reduction by the addition of 10% palladium-carbon (100 mg) for 2 hours under normal pressure. After the removal of the catalyst by filtration, the solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (5% methanol-dichloromethane), whereby 6-methoxycarbonyl-1,2,3,4-tetrahydropyrazine (880 mg, 86%) was obtained as a yellow oil.

reactant | 2-methoxycarbonylpyrazine | 1.00 g | COC(=O)C1=NC=CN=C1 | C6H6N2O2
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 6-methoxycarbonyl-1,2,3,4-tetrahydropyrazine | 880 mg, 86% | COC(=O)C1=CNCCN1 | C6H10N2O2
